US06545055B1
Preparation of (tert-Butoxy)-N-(2-{[(4-bromophenyl)sulfonyl]amino}ethyl)carboxamide
To a solution of N-(2-Aminoethyl)carbamic acid tert-butyl ester (1.86 g, 11.5 mmol) and triethyl amine (3 mL) in CH2Cl2 (100 mL) at 0° C., was added (4-bromophenyl)chlorosulfone (2.93 g, 11.5 mmol). The mixture was stirred for 3 hours, before the solvent was removed. The residue was dissolved in EtOAc (150 mL), washed with sat. NaHCO3 (50 mL), sat. NaCl (50 mL), 1N HCl (50 mL), sat. NaCl (2×50 mL), dried over MgSO4, and evaporated to give 3.8 g of the title compound as a white solid in 100% yield.

reactant | N-(2-Aminoethyl)carbamic acid tert-butyl ester | 11.5 mmol, 1.86 g | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
reactant | triethyl amine | 3 mL | C(C)N(CC)CC | C6H15N
reactant | (4-bromophenyl)chlorosulfone | 11.5 mmol, 2.93 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (tert-Butoxy)-N-(2-{[(4-bromophenyl)sulfonyl]amino}ethyl)carboxamide | 3.8 g, 100% yield | C(C)(C)(C)OC(=O)NCCNS(=O)(=O)C1=CC=C(C=C1)Br | C13H19BrN2O4S
